US05977413
At present, bis(3-amino-4-hydroxyphenyl) compounds, especially 2,2-bis(3-amino-4-hydroxyphenyl)hexafluoropropane are important as materials for producing heat-resistant polymers, etc. A method mentioned below is known for producing bis(3-amino-4-hydroxyphenyl) compounds, which, however, is problematic in the following points. Japanese Patent Application Laid-Open (JP-A) No. Hei-6-211752 discloses a method of catalytic hydrogenation reduction of bis(3-nitro-4-hydroxyphenyl)hexafluoropropane with a catalyst of palladium-carbon under high-pressure hydrogen. In this method, the purity of 2,2-bis(3-amino-4-hydroxyphenyl)hexafluoropropane produced in the reaction mixture is 97%, and after the catalyst is removed through filtration, the mixture is poured into water for crystallization to obtain a dark gray product. This is recrystallized from a mixture of ethyl acetate and n-hexane to obtain the intended product, 2,2-bis(3-amino-4-hydroxyphenyl)hexafluoropropane. In this method, the starting compound is catalytically reduced with high-pressure hydrogen at a high temperature, and the method requires a pressure reactor (e.g., autoclave). Therefore, the method could neither be economical nor advantageous in view of the complicated operations it requires. In addition, the crude product obtained in the method contains coloring components that are difficult to remove, which brings about another problem that the post treatment of the product is not easy.

reactant | bis(3-nitro-4-hydroxyphenyl)hexafluoropropane | [N+](=O)([O-])C=1C=C(C=CC1O)C(C(F)(F)F)(C(F)(F)F)C1=CC(=C(C=C1)O)[N+](=O)[O-] | C15H8F6N2O6
reactant | hydrogen | [H][H] | H2
catalyst | palladium-carbon | [C].[Pd]
product | 2,2-bis(3-amino-4-hydroxyphenyl)hexafluoropropane | NC=1C=C(C=CC1O)C(C(F)(F)F)(C(F)(F)F)C1=CC(=C(C=C1)O)N | C15H12F6N2O2
